US07816558B2
5-Bromo-2-hydroxybenzonitrile, benzyl bromide and potassium carbonate were reacted in DMF at room temperature to obtain 2-(benzyloxy)-5-bromobenzonitrile. EI: 287, 289.

reactant | 5-Bromo-2-hydroxybenzonitrile | BrC=1C=CC(=C(C#N)C1)O | C7H4BrNO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(benzyloxy)-5-bromobenzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C=C(C=C1)Br | C14H10BrNO
